US05130440
Following the procedure described in Example 2, palmitic acid was reacted with ethanolamine in the presence of titanium tetrabutylate to form 2-pentadecyl-2-oxazoline. The quantities used were as follows:

reactant | palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | ethanolamine | C(O)CN | C2H7NO
catalyst | titanium tetrabutylate | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | 2-pentadecyl-2-oxazoline | C(CCCCCCCCCCCCCC)C=1OCCN1 | C18H35NO
